US07268159B2
1-(4-Nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester was prepared from 1H-indole-6-carboxylic acid methyl ester and 4-nitrobenzyl bromide followed the procedure of Example 3 Step 1 as a yellow powder: 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 5.75 (s, 2H), 6.66(dd, J=3.1, 0.6 Hz, 1H), 7.34 (d, J=8.7 Hz, 2H), 7.60 (t, J=2.8 Hz, 1H), 7.79 (d, J=3.1 Hz, 1H), 8.07 (s, 1H), 8.15 (s, 1H), 8.19 (d, J=8.8 Hz, 1H), 8.28 (d, J=8.7 Hz, 2H); MS (ESI) m/z 311 (MH+); 309 ([M−H]−).

reactant | 1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 1-(4-Nitrobenzyl)-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
